US09193734B2
Synthesis of (S)-2-amino-N1-(benzo[b]thiophen-3-ylmethyl)-N1—((S)-1,1-diethoxypropan-2-yl)-N4-tritylsuccinamide (Compound IV-21)
(9H-Fluoren-9-yl)methyl (S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylcarbamate (Compound III-21) 23.5 g (27 mmol) and piperidine 22.7 g (270 mmol) were added in DCM (90 ml). The mixture was stirred for 1.5 h at room temperature. The mixture was diluted with DCM (200 ml) and washed with water (150 ml×3). The solution was concentrated in vacuo. The residue was purified by column chromatography on silica gel with PE:EA=50:1 to DCM:MeOH=10:1 to give the title compound 15.1 g, (yield 86%).

reactant | (9H-Fluoren-9-yl)methyl (S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylcarbamate | 27 mmol, 23.5 g | S1C2=C(C(=C1)CN(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(OCC1C3=CC=CC=C3C=3C=CC=CC13)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C54H53N3O6S
reactant | piperidine | 270 mmol, 22.7 g | N1CCCCC1 | C5H11N
reactant | EA | CC(OCC)=O | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-N1-(benzo[b]thiophen-3-ylmethyl)-N1—((S)-1,1-diethoxypropan-2-yl)-N4-tritylsuccinamide | 15.1 g, yield 86% | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)CC(=O)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H43N3O4S
